US08791102B2
Proceeding as in Reference 5, but substituting 4-(4-fluorophenoxy)aniline and (S)-2-(tert-butoxycarbonylamino)-3-(4-fluorobenzyloxy)propanoic acid, gave (S)-2-amino-3-(4-fluorobenzyloxy)-N-(4-(4-fluorophenoxy)phenyl)propanamide (200 mg, 84%).

reactant | 4-(4-fluorophenoxy)aniline | FC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10FNO
reactant | (S)-2-(tert-butoxycarbonylamino)-3-(4-fluorobenzyloxy)propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)COCC1=CC=C(C=C1)F | C15H20FNO5
product | (S)-2-amino-3-(4-fluorobenzyloxy)-N-(4-(4-fluorophenoxy)phenyl)propanamide | 200 mg, 84% | N[C@H](C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F)COCC1=CC=C(C=C1)F | C22H20F2N2O3
